US08563541B2
Step 1. 2-(2,6-Dichlorophenyl)imidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-3(8H)-ol
(6Z)-5H-dipyrido[2,3-b:4′,3′-f]azepine-5,6(11H)-dione 6-oxime (11.0 g, 0.0435 mol), ammonium acetate (50 g, 0.65 mol), 2,6-dichlorobenzaldehyde (15.2 g, 0.0870 mol) and acetic acid (200 mL) were heated at 90° C. for 30 minutes. The reaction was concentrated in vacuo to rigorously remove the acetic acid and then the residue was diluted with water (250 mL) and sodium bicarbonate saturated solution (250 mL) added to achieve a basic pH. Ethyl acetate (100 mL) and diethyl ether (300 mL) were then added. The desired product precipitated from the vigorously stirred mixture and was allowed to stand one hour prior to filtration that afforded the product as an off-yellow solid (16.1 g, 93%). This material was used without further purification in the next step. LCMS calculated for C19H12Cl2N5O (M+H)+: m/z=396. Elemental Analysis calculated for C19H13Cl4N5; C, 50.36; H, 2.89; Cl, 31.29; N, 15.45. Found: C, 48.93; H, 2.81; Cl, 30.57; N, 14.94.

reactant | (6Z)-5H-dipyrido[2,3-b:4′,3′-f]azepine-5,6(11H)-dione 6-oxime | 0.0435 mol, 11.0 g | N1=CC=CC2=C1NC1=C(/C(/C2=O)=N/O)C=CN=C1 | C12H8N4O2
reactant | ammonium acetate | 0.65 mol, 50 g | C(C)(=O)[O-].[NH4+]
reactant | 2,6-dichlorobenzaldehyde | 0.0870 mol, 15.2 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | 2-(2,6-Dichlorophenyl)imidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-3(8H)-ol | 16.1 g, 93% | ClC1=C(C(=CC=C1)Cl)C=1N(C2=C(C3=C(NC4=C2C=CN=C4)N=CC=C3)N1)O | C19H11Cl2N5O
